Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
bandlike abdominal pain, urinary retention, headache
 
Major Surgical or Invasive Procedure:
Lumbar Puncture

 
History of Present Illness:
___ with PMHx significant for HTN who developed abdominal pain
followed but a shingles outbreak with 2 weeks of marked urinary
and fecal retention. His symptoms started ___ with a tight band
of burning abdominal pain. He then developed marked urinary
retention and fecal retention on ___. On ___, he developed a
rash on his left flank wrapping around to the back with a dull
achy posterior headache. On ___, his SBP was elevated > 200 and
he continued to have urinary retention with burning when he
urinated only small amounts so he was admitted to ___. He remained in the hospital till late in the next day
after requiring a straight cath to empty his markedly distended
bladder.  He was sent home on a valcyclovir and slowly his
constipation and urinary retention improved. He thinks his
constipation was better on ___ after his wife gave him several
courses of heavy bowel regimen. He thinks that his urinary
retention was completely resolved by ___, the day he was
readmitted to ___ with elevated blood pressures. He was
found to also have some kidney injury (Cr 1.4). He was admitted
for four days and was finally discharged yesterday, ___.
Throughout both admissions, since the beginning of this whole
episode, the tight bandlike burning abdominal pain has 
persisted.
Today, on routine post-discharge follow up, his PCP, ___ concerned about the large distribution of the shingles
(including the flank, the back, into the left leg), the
persistent tight burning abdominal pain and appreciated some 
neck
stiffness and meningismus on exam. He thought this may represent
CNS VZV and sent the patient to ___ for neurological
evaluation. Currently, he continues to have posterior headache,
abdominal pain, but his urinary/fecal retention has improved. 
His
headache is a dull achy sensation ranging from ___ and he thinks
that it is worse when he sits up and better when he lays down. 
It
has been persistent since the first admission and no medications
have helped. He has not had any head imaging since the onset of
his symptoms. He has never had any weakness other than some
generalized weakness from poor po intake and occasional low bps
and over all fatigue. His only sensory changes are the 
persistent
burning bandlike abdominal pain. Of note, a KUB and a CT Abdomen
were ordered at ___ and showed cysts in his
kidneys and liver. Apparently, per his PCP, these are benign and
would not explain any of his current symptoms. As for his blood
pressure, he normally checks this in the morning and at night 
and
several times during the day. Over the last several weeks, his
SBPs have ranged ___ to 200+. He has never had such volatile
blood pressures in the past. He was taking lisinopril 20mg daily
but this was switched to amlodipine 5mg daily after he had the
kidney injury during the second hospitalization. During the last
several weeks, he developed new insomnia because of the marked
abdominal pain and was started on duloxetine to help him sleep.
He took 1 or 2 pills of this and developed intractable nausea 
and
vomiting on ___. This only occurred once. Throughout this whole
episode, he has also had very poor PO intake only eating 
oatmeal,
plain toast, and some tea/water. He thinks he has lost 13lbs in
the last three weeks. Neurology was consulted per the request of
his PCP. 

On neuro ROS, (+) bandlike tightness around the abdomen that has
persisted for three weeks. (+) acute urinary and fecal retention
that is now resolved, (+) posterior headache worse with sitting
up, (+) some difficulty with gait (?balance issues) from
generalized fatigue, (+) his wife thinks he is forgetting things
and certainly not as sharp as his baseline. The pt denies, loss
of vision, blurred vision, diplopia, dysarthria, dysphagia,
vertigo, tinnitus. (+) He denies hearing loss until this is
discovered on exam. Denies difficulties producing or
comprehending speech.  Denies focal weakness. 
 
On general review of systems, (+) left sided shingles rash is
improving, (+) 13 lb weight loss over the last several weeks, 
(+)
abdominal pain, constipation and urinary retention described in
detail above. Denies cough, shortness of breath.  Denies chest
pain or tightness, palpitations.  
 
Past Medical History:
AORTIC INSUFFICIENCY - denies 
DIVERTICULOSIS - denies 
EPIDIDIMITIS - denies 
FROZEN SHOULDER 
HEADACHE 
HYPERTENSION 
HYPERURICEMIA - denies 
PROSTATE DISEASE - denies 
 
Social History:
___
Family History:
- two daughters, ___ with seizures (unknown etiology), ___ is
healthy. Two sisters, ___ and ___ with obesity and the eldest had
breast cancer. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
- Vitals: pain 7 98.4 82 150/72 19 99% RA 
- General: Awake, cooperative, mild distress from burning pain 
on
abdomen 
- HEENT: NC/AT
- Neck: the patient reports some pain and mild stiffness when 
the
neck is moved from side to side. He has muscle tension in his
shoulders and his neck is also tender to palpation. He is unable
to touch his chin to the chest. When he touches his ear to each
shoulder he reports that his neck feels somewhat stiff. 
- Pulmonary: no increased WOB
- Abdomen: soft with painful paresthesesias to light touch 
across
the abdomen several inches above and below the umbilicus. 
- Extremities: no edema
- Skin: There are healing well scabbed sores around his left
groin around the left flank in the in the sacral portion of his
back. 
 
NEURO EXAM: 
- Mental Status: Awake, alert, oriented x 3. Able to relate
history with some difficultly with details. For example, he told
me that he was discharged from ___ on ___
(today is ___ when in fact he was discharged yesterday.
Attentive, able to name ___ backward without difficulty. 
Language
is fluent with intact repetition and comprehension. Normal
prosody. There were no paraphasic errors. Able to name both high
and low frequency objects except he missed cactus on the stroke
card. Speech was not dysarthric. Able to follow both midline and
appendicular commands. Fair knowledge of current events, able to
name ___ and ___ but unable to name any of the other
candidates or the vice presidential candidates. There was no
evidence of apraxia or neglect.

- Cranial Nerves:
PERRL 3 to 2mm and brisk. VFF to confrontation. EOMI with
saccadic intrusion but no nystagmus and good up gaze. Facial
sensation intact to light touch and pin prick. No facial droop.
Hearing intact to whispered word on the left only (his wife
reports this is a chronic issues). Palate elevates symmetrically
(no oral lesions). ___ strength in trapezii and SCM bilaterally.
Tongue protrudes in midline and into either cheek with no
evidence of weakness. 

- Motor: Paratonia in both arms with mild spasticity in both
legs. No pronator drift bilaterally. No adventitious movements
such as tremor or asterixis noted. 
=[Delt] [Bic] [Tri] [ECR] [IO] [IP] [Quad] [Ham] [TA] [Gas] 
[___]
L  5      5     5     5     5   5      5    5      5    5    4
R  5      5     5     5     5   5      5    5      5    5    4
- Sensory: Testing with the pin was challenging as there were
many inconsistent answers going back and forth from sharp to 
dull
with multiple attempts over the same areas (mostly abdomen and
lower back). However, when he was tested with a bag of ice his
responses were more consistent. The cold sensation was intact 
and
normal over his face, arms, back, and legs. On the abdomen from
about T8-T12 across the abdomen to either flank, he felt marked
painful hyperesthesia to cold. There was no length dependent
changes to pin prick on the arms or legs. Proprioception was
intact at the toes. No extinction to DSS.
- DTRs:
  Bi Tri ___ Pat Ach
L  1  0    1    2+  0
R  1  0    1    2+  0
Plantar response was equivocal bilaterally.
- Coordination: No dysmetria on FNF or HKS bilaterally.
- Gait: Good initiation. Somewhat wide based but able to toe and
heel well. Several missteps with tandem. Romberg absent.
 

DISCHARGE PHYSICAL EXAM:
vitals within normal limits 
-Gen: Awake, cooperative, elderly male, comfortable
- HEENT: NCAT
- Neck: mild neck pain and mild stiffness when the
neck is moved from side to side. no nuchal rigidity, negative 
L'hermitte's sign 
- Pulmonary: warm, well perfused
- Abdomen: soft with painful paresthesesias to light touch 
across
the abdomen several inches above and below the umbilicus. 
Abdomen is soft, nontender and nondistended.
- Extremities: no edema
- Skin: There are healing well scabbed sores around his left
groin around the left flank in the in the sacral portion of his
back. 
 
Neurologic:
- Mental Status: Awake, alert, oriented x 3. Able to relate
history, mildly inattentive and tangential. Able to say DOTW 
backewards and MOTY backwards without difficulty.  Language is 
fluent with intact repetition and comprehension. Normal
prosody. There were no paraphasic errors. Speech was not 
dysarthric. Able to follow both midline and appendicular 
commands. There was no evidence of apraxia or neglect.

- Cranial Nerves:
PERRL 3 to 2mm and brisk. EOMI with no nystagmus. Facial 
sensation intact to light touch and pin prick. No facial droop.  
Palate elevates symmetrically. ___ strength in trapezii and SCM 
bilaterally. Tongue protrudes in midline.

- Motor: Paratonia in both arms with mild spasticity in both
legs. No pronator drift bilaterally. No adventitious movements
such as tremor or asterixis noted. 
=[Delt] [Bic] [Tri] [ECR] [IO] [IP] [Quad] [Ham] [TA] [Gas] 
[___]
L  5      5     5     5     5   5      5    5      5    5    4
R  5      5     5     5     5   5      5    5      5    5    4

- Sensory:  Parasthesias and mild dysthesia present on abdomen 
from T8-T10 area anteriorly and posteriorly.  Corresponding 
sensitivity to temperature in this area. Proprioception was
intact at the toes. No extinction to DSS.
- DTRs:
  Bi Tri ___ Pat Ach
L  1  0    1    2+  0
R  1  0    1    2+  0
Plantar response was equivocal bilaterally.
- Coordination: No dysmetria on FNF or HKS bilaterally.
- Gait: Good initiation. narrow based. normal arm swing, no 
sway. Romberg absent.
 
Pertinent Results:
___ 07:30AM BLOOD WBC-7.8 RBC-4.04* Hgb-12.5* Hct-36.9* 
MCV-91 MCH-30.9 MCHC-33.9 RDW-13.2 RDWSD-43.8 Plt ___
___ 03:35PM BLOOD Neuts-57.2 ___ Monos-9.3 Eos-1.3 
Baso-0.4 Im ___ AbsNeut-5.69 AbsLymp-3.13 AbsMono-0.93* 
AbsEos-0.13 AbsBaso-0.04
___ 07:30AM BLOOD Plt ___
___ 07:30AM BLOOD Glucose-86 UreaN-19 Creat-1.4* Na-138 
K-3.5 Cl-101 HCO3-25 AnGap-16
___ 02:35PM BLOOD ALT-15 AST-17 AlkPhos-59 TotBili-0.6
___ 07:30AM BLOOD Calcium-9.3 Phos-3.5 Mg-1.8
___ 05:35PM BLOOD CRP-1.6
___ 02:52PM BLOOD Lactate-1.___ man with a past medical history of HTN who developed a 
presumed shingles on an outpatient basis. Course (prior to this 
admission) complicated by urinary and stool retention, ___ 
amongst other symptoms. The majority of these symptoms resolved 
prior to this hospitalization. 

#Parasthesias and truncal dysthesias: Patient was referred in to 
___ by PCP due to concern for disseminated HSV/VZV. This was 
of concern given patient's recent rash in a dermatomal 
distribution, followed by headache and sensory complaints. 

Patent was initially treated empirically with acyclovir, and 
underwent both LP and MRI imaging.   MRI L-spine raised question 
of Discitis vs degenerative changes, but inflammatory markers 
normal.  

On consultation with Infectious Diseases, he was felt not to 
have dissemeniated Herpes or Zoster. Acyclovir was stopped and 
he was monitored, doing well.  ID did not feel that further 
evaluation was warranted.  When studies return, no further 
treatment for HSV/VSV was needed. He was felt by ID to have 
undergone full and appropriate treatment for his Shingles 
(already received 2 weeks of therapy). 

His earlier course of urinary and bowel retention are concerning 
for possible Viral Conus Syndrome, this this had resolved prior 
to this admission.

TRANSITIONAL ISSUES
- Outpatient Neurology Follow-up arranged pending PCP follow up 
(arranged within 1 week of discharge) 
- PCP follow up within 1 week 
- Continue low dose gabapentin (100mg TID) for management of 
neuropathic pain 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Atorvastatin 10 mg PO QPM 
3. Allopurinol ___ mg PO DAILY 
4. Docusate Sodium 100 mg PO BID:PRN constipation 
5. Bisacodyl 10 mg PO DAILY:PRN constipation 

 
Discharge Medications:
1.  Gabapentin 100 mg PO TID:PRN Shingles discomfort 
Please uptitrate this medication as directed by your physician. 
RX *gabapentin 100 mg 1 capsule(s) by mouth Three Times Daily as 
needed Disp #*90 Capsule Refills:*1 
2.  Allopurinol ___ mg PO DAILY  
3.  amLODIPine 5 mg PO DAILY  
4.  Atorvastatin 10 mg PO QPM  
5.  Bisacodyl 10 mg PO DAILY:PRN constipation  
6.  Docusate Sodium 100 mg PO BID:PRN constipation  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Shingles, ? of Prior Disseminated, treated HSV/VZV

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
   You were hospitalized at ___ due to concern 
for disseminated (spread) shingles.  You were evaluated by 
Neurology and Infectious Disease physicians.
   You underwent evaluation including MRI, lumbar puncture and 
close monitoring.  Based on your imaging, lumbar puncture 
studies and prior treatment with oral medication, you were felt 
not to require further treatments.
   Additionally, your MRI did show likely degenerative changes 
of your lumbar spine.  While there was initially some concern 
for infection, your labs were normal and the infectious disease 
doctors did not think further evaluation was needed.
   It was a pleasure taking care of you.
Your ___ Care Team
 
Followup Instructions:
___